US09388176B2
3-bromo-N-(3-isopropylphenyl)-5-methylbenzamide
In a manner similar to that described in Preparation 41, 3-bromo-5-methylbenzoic acid (400 mg) and 3-isopropylaniline were converted to the title compound (615 mg, 99%).

reactant | 3-bromo-5-methylbenzoic acid | 400 mg | BrC=1C=C(C(=O)O)C=C(C1)C | C8H7BrO2
reactant | 3-isopropylaniline | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
product | 3-bromo-N-(3-isopropylphenyl)-5-methylbenzamide | 615 mg, 99% | BrC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=C(C1)C | C17H18BrNO
